* 
* ******************************************************************************
* *                                                                            *
* *                   Copyright (C) 2004-2010, Nangate Inc.                    *
* *                           All rights reserved.                             *
* *                                                                            *
* * Nangate and the Nangate logo are trademarks of Nangate Inc.                *
* *                                                                            *
* * All trademarks, logos, software marks, and trade names (collectively the   *
* * "Marks") in this program are proprietary to Nangate or other respective    *
* * owners that have granted Nangate the right and license to use such Marks.  *
* * You are not permitted to use the Marks without the prior written consent   *
* * of Nangate or such third party that may own the Marks.                     *
* *                                                                            *
* * This file has been provided pursuant to a License Agreement containing     *
* * restrictions on its use. This file contains valuable trade secrets and     *
* * proprietary information of Nangate Inc., and is protected by U.S. and      *
* * international laws and/or treaties.                                        *
* *                                                                            *
* * The copyright notice(s) in this file does not indicate actual or intended  *
* * publication of this file.                                                  *
* *                                                                            *
* *         buildcell, v2010.08-HR32-SP3-2010-08-05 - build 1009061800         *
* *                                                                            *
* ******************************************************************************
* 
* 
* Running on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr).
* Local time is now Fri, 3 Dec 2010, 19:23:59.
* Main process id is 28033.
*
********************************************************************************
*                                                                              *
* Cellname:   LOGIC1_X1.                                                       *
*                                                                              *
* Technology: NCSU FreePDK 45nm.                                               *
* Format:     Cdl.                                                             *
*                                                                              *
* Written on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr)     *
* at 19:23:59 on Fri, 3 Dec 2010.                                              *
*                                                                              *
********************************************************************************
.SUBCKT LOGIC1_X1 VDD VSS Z 
*.PININFO VDD:P VSS:G Z:O 
M_M1 N_VDD_M0_d N_3_M0_g N_Z_M0_s VDD PMOS_VTL W=0.135000U L=0.050000U
M_M0 N_VSS_M1_d N_3_M1_g N_3_M1_s VSS NMOS_VTL W=0.090000U L=0.050000U
C_x_PM_LOGIC1_X1%VDD_c0 x_PM_LOGIC1_X1%VDD_28 VSS 2.29703e-17
C_x_PM_LOGIC1_X1%VDD_c1 x_PM_LOGIC1_X1%VDD_27 VSS 1.06048e-17
C_x_PM_LOGIC1_X1%VDD_c2 x_PM_LOGIC1_X1%VDD_26 VSS 2.334e-16
C_x_PM_LOGIC1_X1%VDD_c3 x_PM_LOGIC1_X1%VDD_17 VSS 2.721e-16
C_x_PM_LOGIC1_X1%VDD_c4 x_PM_LOGIC1_X1%VDD_13 VSS 3.33159e-17
C_x_PM_LOGIC1_X1%VDD_c5 x_PM_LOGIC1_X1%VDD_12 VSS 1.92462e-17
C_x_PM_LOGIC1_X1%VDD_c6 x_PM_LOGIC1_X1%VDD_8 VSS 5.52247e-16
R_x_PM_LOGIC1_X1%VDD_r7 x_PM_LOGIC1_X1%VDD_28 VDD 0.457895
R_x_PM_LOGIC1_X1%VDD_r8 VDD x_PM_LOGIC1_X1%VDD_27 0.138595
R_x_PM_LOGIC1_X1%VDD_r9 VDD x_PM_LOGIC1_X1%VDD_26 0.138985
R_x_PM_LOGIC1_X1%VDD_r10 x_PM_LOGIC1_X1%VDD_17 VDD 0.143847
R_x_PM_LOGIC1_X1%VDD_r11 x_PM_LOGIC1_X1%VDD_17 VDD 3.84471
R_x_PM_LOGIC1_X1%VDD_r12 N_VDD_M0_d x_PM_LOGIC1_X1%VDD_28 0.543196
R_x_PM_LOGIC1_X1%VDD_r13 x_PM_LOGIC1_X1%VDD_13 x_PM_LOGIC1_X1%VDD_28 0.075426
R_x_PM_LOGIC1_X1%VDD_r14 x_PM_LOGIC1_X1%VDD_13 x_PM_LOGIC1_X1%VDD_27 0.637059
R_x_PM_LOGIC1_X1%VDD_r15 x_PM_LOGIC1_X1%VDD_12 VDD 0.140282
R_x_PM_LOGIC1_X1%VDD_r16 x_PM_LOGIC1_X1%VDD_26 x_PM_LOGIC1_X1%VDD_12 7.68941
R_x_PM_LOGIC1_X1%VDD_r17 x_PM_LOGIC1_X1%VDD_8 VDD 8.51647
C_x_PM_LOGIC1_X1%VSS_c0 x_PM_LOGIC1_X1%VSS_29 VSS 3.24715e-17
C_x_PM_LOGIC1_X1%VSS_c1 x_PM_LOGIC1_X1%VSS_27 VSS 2.334e-16
C_x_PM_LOGIC1_X1%VSS_c2 VSS VSS 2.7177e-16
C_x_PM_LOGIC1_X1%VSS_c3 x_PM_LOGIC1_X1%VSS_14 VSS 1.04853e-17
C_x_PM_LOGIC1_X1%VSS_c4 x_PM_LOGIC1_X1%VSS_13 VSS 4.16859e-17
C_x_PM_LOGIC1_X1%VSS_c5 x_PM_LOGIC1_X1%VSS_10 VSS 5.52247e-16
C_x_PM_LOGIC1_X1%VSS_c6 x_PM_LOGIC1_X1%VSS_9 VSS 1.92462e-17
R_x_PM_LOGIC1_X1%VSS_r7 x_PM_LOGIC1_X1%VSS_29 VSS 0.446873
R_x_PM_LOGIC1_X1%VSS_r8 VSS x_PM_LOGIC1_X1%VSS_27 0.138985
R_x_PM_LOGIC1_X1%VSS_r9 N_VSS_M1_d x_PM_LOGIC1_X1%VSS_29 0.543196
R_x_PM_LOGIC1_X1%VSS_r10 VSS x_PM_LOGIC1_X1%VSS_14 0.138595
R_x_PM_LOGIC1_X1%VSS_r11 x_PM_LOGIC1_X1%VSS_14 VSS 0.525294
R_x_PM_LOGIC1_X1%VSS_r12 x_PM_LOGIC1_X1%VSS_13 x_PM_LOGIC1_X1%VSS_29 0.0754011
R_x_PM_LOGIC1_X1%VSS_r13 x_PM_LOGIC1_X1%VSS_13 VSS 0.122941
R_x_PM_LOGIC1_X1%VSS_r14 x_PM_LOGIC1_X1%VSS_10 VSS 8.51647
R_x_PM_LOGIC1_X1%VSS_r15 x_PM_LOGIC1_X1%VSS_9 VSS 0.140282
R_x_PM_LOGIC1_X1%VSS_r16 x_PM_LOGIC1_X1%VSS_27 x_PM_LOGIC1_X1%VSS_9 7.68941
C_x_PM_LOGIC1_X1%3_c0 x_PM_LOGIC1_X1%3_19 VSS 7.5714e-18
C_x_PM_LOGIC1_X1%3_c1 N_3_M1_s VSS 6.55263e-17
C_x_PM_LOGIC1_X1%3_c2 N_3_M0_g VSS 9.93083e-17
C_x_PM_LOGIC1_X1%3_c3 N_3_M1_g VSS 2.15892e-17
R_x_PM_LOGIC1_X1%3_r4 x_PM_LOGIC1_X1%3_15 x_PM_LOGIC1_X1%3_19 3.9
R_x_PM_LOGIC1_X1%3_r5 x_PM_LOGIC1_X1%3_13 x_PM_LOGIC1_X1%3_15 25.0012
R_x_PM_LOGIC1_X1%3_r6 N_3_M1_s x_PM_LOGIC1_X1%3_13 0.443333
R_x_PM_LOGIC1_X1%3_r7 x_PM_LOGIC1_X1%3_5 x_PM_LOGIC1_X1%3_19 1.95
R_x_PM_LOGIC1_X1%3_r8 x_PM_LOGIC1_X1%3_5 N_3_M0_g 127.53
R_x_PM_LOGIC1_X1%3_r9 A x_PM_LOGIC1_X1%3_19 1.95
R_x_PM_LOGIC1_X1%3_r10 A N_3_M1_g 17.16
C_x_PM_LOGIC1_X1%Z_c0 Z VSS 9.29605e-17
R_x_PM_LOGIC1_X1%Z_r1 Z N_Z_M0_s 1.47929
.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
